US04792567
Under a nitrogen atmosphere, 0.12 gram (0.0050 mole) of sodium hydride was added to a stirred solution of 1.2 gram (0.0057 mole) of 5-formyl-5'-methyl[2,2'-bithienyl] and 1.7 gram (0.0064 mole) of diethyl 4-chlorobenzylposphonate in 20 mL of N,N-dimethylformamide. The reaction mixture was stirred at room temperature for about three huurs. Analysis of the reaction mixture by thin layer chromatography indicated starting materials remained. Additional sodium hydride was added, and the mixture was stirred at room temperature for several hours. The reaction mixture was quenched with an aqueous solution saturated with ammonium chloride. This mixture was extracted several times with diethyl ether. The extracts were combined and washed with an aqueous solution saturated with sodium chloride. The washed extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel to yield 2-(4-chlorophenyl)-1-(5'-methyl[2,2'-bithienyl]-5-yl)ethene as a solid, m.p. 157°-162° C.

reactant | sodium hydride | 0.0050 mole, 0.12 gram | [H-].[Na+]
reactant | 5-formyl-5'-methyl[2,2'-bithienyl] | 0.0057 mole, 1.2 gram | C(=O)C1=CC=C(S1)C=1SC(=CC1)C | C10H8OS2
reactant | diethyl 4-chlorobenzylposphonate | 0.0064 mole, 1.7 gram | ClC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16ClO3P
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenyl)-1-(5'-methyl[2,2'-bithienyl]-5-yl)ethene | ClC1=CC=C(C=C1)C=CC1=CC=C(S1)C=1SC(=CC1)C | C17H13ClS2
